US07829560B2
3-Fluoro-N-(4-{[2-(3-hydroxypiperidin-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-piperidin-1-ylbenzamide (Compound B402).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and piperidin-3-ol according to conditions described in general procedure C. Mp: 93-95° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.24-1.26 (m, 2 H), 1.58-1.60 (m, 7 H), 1.75-1.85 (m, 1 H), 2.68-2.80 (m, 2 H), 3.27-3.36 (m, 6 H), 4.80 (d, J=4.0 Hz, 1 H), 6.14 (d, J=5.5 Hz, 1 H), 6.95 (d, J=12.8 Hz, 1 H), 7.14 (d, J=9.1 Hz, 1 H), 7.40 (d, J=8.0 Hz, 1 H), 7.46 (s, 1 H), 7.55-7.61 (m, 3 H), 7.82-7.84 (m, 1H), 7.97 (d, J=7.3 Hz, 1H), 8.22 (d, J=5.4 Hz, 1H), 10.44 (s, 1H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | piperidin-3-ol | N1CC(CCC1)O | C5H11NO
product | 3-Fluoro-N-(4-{[2-(3-hydroxypiperidin-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-piperidin-1-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)N2CC(CCC2)O)C=C(C1)N1CCCCC1 | C31H32FN5O3
